US06939866B2
4-Toluenesulphonyl chloride (3.2 g) was added to a stirred mixture of 1-(3-hydroxypropyl)4-methylpiperazine (2.4 g), triethylamine (4.6 ml) and methylene chloride (60 ml) and the resultant mixture was stirred at ambient temperature for 2 hours. The solution was washed in turn with a saturated aqueous sodium bicarbonate solution and with water and filtered through phase separating paper. The organic filtrate was evaporated to give 3-(4-methylpiperazin-1-yl)propyl 4-toluenesulphonate as an oil which crystallised on standing (3.7 g); Mass Spectrum: M+H+ 313.

reactant | 4-Toluenesulphonyl chloride | 3.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1-(3-hydroxypropyl)4-methylpiperazine | 2.4 g | OCCCN1CCN(CC1)C | C8H18N2O
reactant | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-methylpiperazin-1-yl)propyl 4-toluenesulphonate | C1(=CC=C(C=C1)S(=O)(=O)OCCCN1CCN(CC1)C)C | C15H24N2O3S
